US07253286B2
N1-Cyclopropyl-5-({2-[di(cyclopropylcarbonyl)amino]-4-pyridyl}oxy)-1H-1-indolecarboxamide
Cyclopropanecarbonyl chloride (51 mg) was added to a solution of 100 mg of N1-cyclopropyl-5-[(2-amino-4-pyridyl)oxy]-1H-1-indolecarboxamide and 49 mg of triethylamine in tetrahydrofuran at 0° C. After 20 minutes of stirring, silica gel was added to the reaction solution, the solvent was distilled off under reduced pressure, and the reaction product was adsorbed onto the silica gel. The silica gel was charged into a dry column packed with silica gel, and purification was performed by column chromatography (hexane:ethylacetate=1:1, followed by ethyl acetate), after which water was added to the residue to obtain 19 mg of the target substance as a white solid.

reactant | Cyclopropanecarbonyl chloride | 51 mg | C1(CC1)C(=O)Cl | C4H5ClO
reactant | N1-cyclopropyl-5-[(2-amino-4-pyridyl)oxy]-1H-1-indolecarboxamide | 100 mg | C1(CC1)NC(=O)N1C=CC2=CC(=CC=C12)OC1=CC(=NC=C1)N | C17H16N4O2
reactant | triethylamine | 49 mg | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | N1-Cyclopropyl-5-({2-[di(cyclopropylcarbonyl)amino]-4-pyridyl}oxy)-1H-1-indolecarboxamide | C1(CC1)NC(=O)N1C=CC2=CC(=CC=C12)OC1=CC(=NC=C1)N(C(=O)C1CC1)C(=O)C1CC1 | C25H24N4O4
